US06884813B2
Preparation of N-[[(5S)-3-[4-(2,3-dihydro-1,1-dioxido-4H-1,4-thiazin-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
4-Methylmorpholine (1.2 mL, 11.1 mmol) is added to a solution of N-[[(5S)-3-[3-fluoro-4-(1-oxido-4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (0.690 g, 1.87 mmol; prepared as described in U.S. Pat. No. 5,688,792) in DCM (40 mL), followed by trifluoroacetic anhydride (1.06 mL, 7.5 mmol). The solution is stirred at r.t. for about 20 h, and is concentrated under vacuum, then dissolved in 100 mL of EtOAc—2.5% aq. NaHCO3 (1:1). Aqueous phase is extracted with EtOAc (2×50 mL). The combined organic layers are washed with brine, and dried (MgSO4). Solvent is removed under vacuum to afford the title compound that is used directly without further purification. Step 2: Preparation of N-[[(5S)-3-[4-[2,3-dihydro-1,1-dioxido-6-(trifluoroacetyl)-4H-1,4-thiazin-4-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide.

reactant | 4-Methylmorpholine | 11.1 mmol, 1.2 mL | CN1CCOCC1 | C5H11NO
reactant | N-[[(5S)-3-[3-fluoro-4-(1-oxido-4-thiomorpholinyl)phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=CC1N1CCS(CC1)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C16H20FN3O4S
reactant | trifluoroacetic anhydride | 7.5 mmol, 1.06 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | N-[[(5S)-3-[4-(2,3-dihydro-1,1-dioxido-4H-1,4-thiazin-4-yl)-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | O=S1(CCN(C=C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)=O | C16H18FN3O5S
